US07399759B2
tert-Butyl 3-[6-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate
4-Chloro-2-mercaptobenzoic acid (2.60 g, 13.7 mmol) and tert-butyl 3-(6-cyano-2-pyridyl)propanoate (1.60 g, 6.9 mmol) were dissolved in pyridine (15 ml), and the mixture was refluxed for 13 hrs. The reaction mixture was concentrated under reduced pressure, subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (3:1, v/v) to give the titled compound (1.42 g, 51%).

reactant | 4-Chloro-2-mercaptobenzoic acid | 13.7 mmol, 2.60 g | ClC1=CC(=C(C(=O)O)C=C1)S | C7H5ClO2S
reactant | tert-butyl 3-(6-cyano-2-pyridyl)propanoate | 6.9 mmol, 1.60 g | C(#N)C1=CC=CC(=N1)CCC(=O)OC(C)(C)C | C13H16N2O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[6-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate | 1.42 g, 51% | ClC1=CC2=C(C(N=C(S2)C2=CC=CC(=N2)CCC(=O)OC(C)(C)C)=O)C=C1 | C20H19ClN2O3S
